US07632857B2
(4-Benzo[1,3]dioxol-5-yl-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure SS starting from (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 3,4-Methylenedioxybenzene boronic acid. MS (M+H) 397.2

reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
reactant | 3,4-Methylenedioxybenzene boronic acid | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
product | (4-Benzo[1,3]dioxol-5-yl-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | O1COC2=C1C=CC(=C2)C2=CC(=C(C=C2)C(=O)N2[C@@H](CCC2)CN2CCCC2)F | C23H25FN2O3
